US04772606
9-[(2,5-dimethyl-3-thienyl)methyl]guanine
A mixture of 2-amino-9-[(2,5-dimethyl-3-thienyl)methyl]-6-chloropurine (3.8 g, 0.0129 mol) and 2N HCl was heated on a steambath for 3.0 hours and then heated under reflux for another hour. At the end of this time 1N NaOH solution was added to the solution till basic and the mixture was heated for another five minutes. The mixture was then acidified with acetic acid, cooled, and filtered to give 3.6 g, of the product. An analytical sample was obtained by chromatography over silica gel using 10% methanol/chloroform as eluting solvent, mp >300° C. (dec).

reactant | 2-amino-9-[(2,5-dimethyl-3-thienyl)methyl]-6-chloropurine | 0.0129 mol, 3.8 g | NC1=NC(=C2N=CN(C2=N1)CC1=C(SC(=C1)C)C)Cl | C12H12ClN5S
reactant | HCl | 2N | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-[(2,5-dimethyl-3-thienyl)methyl]guanine | CC=1SC(=CC1CN1C=2N=C(NC(C2N=C1)=O)N)C | C12H13N5OS
